US07687502B2
[6-(4-Methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-pyrido-[3,2-d]pyrimidin-4-yl-thiazol-2-yl-amine
The compound of Example 33 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 4,6-dichloro-pyrido[3,2-d]pyrimidine, 2-aminothiazole and 3-mercapto-4-methyl-1,2,4-triazole.

reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
reactant | 3-mercapto-4-methyl-1,2,4-triazole | SC1=NN=CN1C | C3H5N3S
product | 6-(4-Methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-pyrido-[3,2-d]pyrimidin-4-yl-thiazol-2-yl-amine | CN1C(=NN=C1)SC=1C=CC=2N=CN=C(C2N1)NC=1SC=CN1 | C13H10N8S2
